US07531565B2
2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylamino)-2-methyl-propionic acid methyl ester (1a)
To a solution of 2-tert-butoxycarbonylamino-2-methyl-3-oxo-propionic acid methyl ester (2.35 g, 6.71 mmol) in methanol (25 mL) was added 4-fluoroaniline (0.53 mL, 5.59 mmol) and acetic acid (0.16 mL, 2.80 mmol). A solution of sodium cyanoborohydride (188 mg, 2.99 mmol) in methanol (25 mL) was added dropwise and the reaction mixture stirred for 3 hours at room temperature post addition. The solvent was removed in vacuo and the residue dissolved in DCM (50 mL). The organic solution was treated with aqueous sodium carbonate solution (20 mL, 1N), stirred for 20 min, and the aqueous layer removed. Concentration of the organic layer followed by purification of the residue using flash chromatography (SiO2, DCM) afforded the title compound as a yellow oil (970 mg, 53%).

reactant | 2-tert-butoxycarbonylamino-2-methyl-3-oxo-propionic acid methyl ester | 6.71 mmol, 2.35 g | COC(C(C=O)(C)NC(=O)OC(C)(C)C)=O | C10H17NO5
reactant | 4-fluoroaniline | 5.59 mmol, 0.53 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | acetic acid | 2.80 mmol, 0.16 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.99 mmol, 188 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 2-tert-Butoxycarbonylamino-3-(4-fluoro-phenylamino)-2-methyl-propionic acid methyl ester | 970 mg, 53% | COC(C(CNC1=CC=C(C=C1)F)(C)NC(=O)OC(C)(C)C)=O | C16H23FN2O4
